US06300330B1
4-(2-Methyl-4-(3-pyridyl)benzoyl)piperazine (0.41 g, 1.5 mmol) was dissolved in dichloromethane (50 mL) at room temperature. 6-Chloronaphthalenesulphonyl chloride (0.38 g, 1.5 mmol) and triethylamine (1 ml, 7.5 mmol) were added and the reaction mixture stirred overnight. The reaction mixture was concentrated in vacuo. The crude product was dissloved in EtOAc (100 mL) and washed with saturated sodium hydrogen carbonate solution (100 mL). The EtOAc layer was separated, dried over MgSO4, filtered and concentrated in vacuo. The resulting solid was subjected to chromatography (SiO2: 50%, 60% EtOAc/Hexane) to yield 1-(6-chloronaphth-2-ylsulphonyl)-4-[2-methyl-4-(3-pyridyl)benzoyl]piperazine as a white solid (508.4 mg); 1H NMR (DMSO-d6) δ=2.15 ppm (s,3H), δ=2.94 to 3.25 ppm (m,6H), δ=3.78 ppm (m,2H), δ=7.23 ppm (d,1H), δ=7.44 to 7.62 ppm (m,3H), δ=7.70 ppm (dd,1H), δ=7.84 ppm (dd, 1H), δ=8.08 ppm (m,1H), pyridyl 5-H), δ=8.12 to 8.28 ppm (m,3H), δ=8.48 ppm (s,1H), δ=8.59 ppm (dd,1H), δ=8.88 ppm (d,1H); MS (M+H)+ 506.

reactant | 4-(2-Methyl-4-(3-pyridyl)benzoyl)piperazine | 1.5 mmol, 0.41 g | CC1=C(C(=O)N2CCNCC2)C=CC(=C1)C=1C=NC=CC1 | C17H19N3O
reactant | 6-Chloronaphthalenesulphonyl chloride | 1.5 mmol, 0.38 g | ClC=1C=C2C=CC=C(C2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
reactant | triethylamine | 7.5 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(6-chloronaphth-2-ylsulphonyl)-4-[2-methyl-4-(3-pyridyl)benzoyl]piperazine | 508.4 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=C(C=C(C=C1)C=1C=NC=CC1)C)=O | C27H24ClN3O3S
